US04983596
A solution of (2S,4R)-1-benzyloxycarbonyl-2-(2-fluoropropyl)oxymethyl-4-methanesulfonyloxypyrrolidine (950 mg) in a mixture of methanol (20 ml) and concentrated hydrochloric acid (one drop) was hydrogenated under atmospheric pressure of hydrogen in the presence of 30% palladium on carbon as a catalyst at ambient temperature for 2 hours. The catalyst was filtered off and the filtrate was concentrated in vacuo to give a residue, which was dissolved in a mixture of ethyl acetate (100 ml) and water (40 ml). The aqueous layer was separated and tetrahydrofuran (40 ml) was added thereto To the solution was added dropwise allyl chloroformate (320 μl) while keeping the pH between 8-9 with 4N sodium hydroxide at 0° C. and the mixture was stirred at the same condition for one hour after addition of allyl chloroformate (320 μl). The mixture was extracted with ethyl acetate (100 ml), washed with brine (50 ml) and dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was chromatographed on silica gel (100 ml) eluting with a mixture of hexane and ethyl acetate (2:1 V/V) to give (2S,4R)-1-allyloxycarbonyl-2-(2-fluoropropyl)oxymethyl-4-methanesulfonyloxypyrrolidine (360 mg).

reactant | (2S,4R)-1-benzyloxycarbonyl-2-(2-fluoropropyl)oxymethyl-4-methanesulfonyloxypyrrolidine | 950 mg | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)COCC(C)F | C17H24FNO6S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 ml | CO | CH4O
catalyst | hydrochloric acid | one drop | Cl | ClH
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 40 ml | O | H2O
product | (2S,4R)-1-allyloxycarbonyl-2-(2-fluoropropyl)oxymethyl-4-methanesulfonyloxypyrrolidine | 360 mg | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)COCC(C)F | C13H22FNO6S
